US04080449
8.7 g. (0.065 moles) of aluminium chloride are added to a solution of 7.7 g. (0.030 moles) of N-hydroxymethyl-3,3-diphenyl-propionamide in 300 ml. of nitrobenzene. The reaction mixture is heated, with stirring, at 100° C. for 6 hours and then cooled and poured into 1 liter water containing 5 ml. of concentrated hydrochloric acid. The nitrobenzene is removed by steam distillation and the residue is extracted with chloroform. The organic phase is dried over anhydrous sodium sulfate and then evaporated to dryness. The residual solid is purified by chromatography on a silica column, using a mixture of benzene and ethanol (85:15 v/v) as eluent, and then recrystallized from 2-propanol. 2.4 g. (34% of theory) of 5-phenyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one are obtained. M.P. 182°-183° C.

reactant | aluminium chloride | 0.065 moles | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | N-hydroxymethyl-3,3-diphenyl-propionamide | 0.030 moles | OCNC(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C16H17NO2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 liter | O | H2O
product | 5-phenyl-1,2,4,5-tetrahydro-3H-2-benzazepin-3-one | 34% | C1(=CC=CC=C1)C1CC(NCC2=C1C=CC=C2)=O | C16H15NO
